US05889026
A mixture of 4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-carboxylic acid ethylester (70.5 g, 0.25 mol) and sodium hydroxide (26 g, 0.65 mol) in ethanol (350 ml) and water (50 ml) was refluxed for 2 days. Sodium hydroxide (20 g, 0.50 mol) was added and refluxing commenced for another day before cooling to room temperature and evaporating the solvent. The residue was taken up with CH2Cl2 (700 ml) and water (1 l), the organic phase was separated and the water phase extracted with CH2Cl2. The organic phases were pooled, dried with MgSO4 and the solvent was evaporated. The residue was crystallized from n-hexane to give 4-(4-methyl-benzyl)-piperidin-4-ol (34 g, 66%) as an off-white solid, m.p. 118°-121° C. and MS: m/e=206 (M+).

reactant | 4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-carboxylic acid ethylester | 0.25 mol, 70.5 g | C(C)OC(=O)N1CCC(CC1)(CC1=CC=C(C=C1)C)O | C16H23NO3
reactant | sodium hydroxide | 0.65 mol, 26 g | [OH-].[Na+]
reactant | Sodium hydroxide | 0.50 mol, 20 g | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-(4-methyl-benzyl)-piperidin-4-ol | 34 g, 66% | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
